US07285671B2
Step 1: Preparation of (2S)-3,3,4,4,4-pentafluorobutan-2-yl 2-(6-methoxynaphthalen-2-yl)propanoate (mix of diastereomers) (6)
A mixture of (S)-naproxen (9.23 g, 40.1 mmol), racemic 3,3,4,4,4-pentafluoro-2-butanol (6.58 g, 40.1 mmol), EDC (9.20 g, 48.0 mmol) and DMAP (4.89 g, 40.0 mmol) was dissolved in CH2Cl2 (40 mL) at room temperature. After stirring for 8 h at room temperature, the mixture was diluted with CH2Cl2, then washed successively with 1 N HCl, sat. NaHCO3, and brine. After drying over Na2SO4 and concentrating, a mixture of diastereomeric naproxen esters was obtained as a white solid.

reactant | (S)-naproxen | 40.1 mmol, 9.23 g | C[C@@H](C1=CC2=C(C=C1)C=C(C=C2)OC)C(=O)O | C14H14O3
reactant | racemic 3,3,4,4,4-pentafluoro-2-butanol | 40.1 mmol, 6.58 g | FC(C(C)O)(C(F)(F)F)F | C4H5F5O
reactant | EDC | 48.0 mmol, 9.20 g
catalyst | DMAP | 40.0 mmol, 4.89 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (2S)-3,3,4,4,4-pentafluorobutan-2-yl 2-(6-methoxynaphthalen-2-yl)propanoate | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O[C@@H](C)C(C(F)(F)F)(F)F)C | C18H17F5O3
